US07745484B2
Step 2: (2S,3S)-4-(allyloxy)-3-(tert-butoxycarbonyl)-2-hydroxybutyl acetate
To a solution of lithium carbonate (0.10 g, 1.4 mmol) in DMF (2.5 mL), was added AcOH (0.078 mL, 1.4 mmol) and the solution stirred for a period of 5 min. To this mixture was added a solution of tert-butyl (S)-2-(allyloxy)-1-((S)-oxiran-2-yl)ethylcarbamate (0.11 g, 0.45 mmol) in DMF (2.5 mL). The mixture was heated to 110° C. overnight then cooled to ambient temperature. The cooled mixture was poured onto H2O and 1 N citric acid (20 mL). The aqueous phase was extracted with EtOAc (3×20 mL) and the organic extracts were dried (Na2SO4), filtered, and conc. in vacuo to afford the title compound as a yellow oil. The crude material was used without further purification. MS m/z: 326 (M+23)

reactant | lithium carbonate | 1.4 mmol, 0.10 g | C([O-])([O-])=O.[Li+].[Li+]
reactant | AcOH | 1.4 mmol, 0.078 mL | CC(=O)O | C2H4O2
reactant | tert-butyl (S)-2-(allyloxy)-1-((S)-oxiran-2-yl)ethylcarbamate | 0.45 mmol, 0.11 g | C(C=C)OC[C@@H]([C@@H]1OC1)NC(OC(C)(C)C)=O | C12H21NO4
reactant | citric acid | 1 N, 20 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | (2S,3S)-4-(allyloxy)-3-(tert-butoxycarbonyl)-2-hydroxybutyl acetate | C(C)(=O)OC[C@H]([C@H](COCC=C)C(=O)OC(C)(C)C)O | C14H24O6
